US08183231B2
Step 3: {(R)-3-[(S)-2-(2-Benzyloxycarbonylamino-acetylamino)-3-methyl-butyrylamino]-2-hydroxy-propyl}-cyclohexylmethyl-phosphinic acid benzyl ester:
The title compound was prepared substantially in a similar manner as in Step 1 of Example 10 using N-Cbz-glycine and [(R)-3-((S)-2-amino-3-methyl-butyrylamino)-2-hydroxy-propyl]-cyclohexylmethyl-phosphinic acid benzyl ester hydrochloride as the starting materials. The title compound thus obtained was purified by SiO2 chromatography using 0-4% MeOH/CH2Cl2 as the eluent. 1H NMR (CD3OD, 300 MHz): δ 7.20-7.15 (m, 10H), 5.17 (s, 2H), 5.02 (m, 2H), 4.19 (d, 1H), 4.09 (m, 1H), 3.80 (s, 2H), 3.23-3.15 (m, 2H), 2.08 (m, 1H), 2.01-1.90 (m, 2H), 1.88-1.78 (m, 6H), 1.70-1.59 (m, 2H), 1.30-1.11 (m, 2H), 1.03 (m, 1H), 0.95-0.88 (m, 8H). 31P NMR (CD3OD, 300 MHz): δ 60.61, 59.94. LCMS m/z: [M+H]+=616.26.

reactant | N-Cbz-glycine | C(=O)(OCC1=CC=CC=C1)NCC(=O)O | C10H11NO4
reactant | [(R)-3-((S)-2-amino-3-methyl-butyrylamino)-2-hydroxy-propyl]-cyclohexylmethyl-phosphinic acid benzyl ester hydrochloride | Cl.C(C1=CC=CC=C1)OP(=O)(CC1CCCCC1)C[C@@H](CNC([C@H](C(C)C)N)=O)O
product | {(R)-3-[(S)-2-(2-Benzyloxycarbonylamino-acetylamino)-3-methyl-butyrylamino]-2-hydroxy-propyl}-cyclohexylmethyl-phosphinic acid benzyl ester | C(C1=CC=CC=C1)OP(=O)(CC1CCCCC1)C[C@@H](CNC([C@H](C(C)C)NC(CNC(=O)OCC1=CC=CC=C1)=O)=O)O | C32H46N3O7P
